US07884207B2
To a solution of 1-[(2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]cyclohexanol (1.43 g, 4.41 mmol) in chloroform (20 mL) at rt was added m-chloroperbenzoic acid (m-CPBA, 70%, 2.17 g, 8.82 mmol). After 1.5 h, the solution was was cooled to 0° C. and concentrated ammonium hydroxide (5 mL) was added. After 3 min, p-toluenesulfonyl chloride (TsCl, 0.920 g, 4.85 mmol) was added in portions. After 1 h, the reaction mixture was filtered and the filter cake was washed with chloroform. The filtrate was washed with saturated aqueous sodium bicarbonate (50 mL) and dried over Na2SO4, filtered, and concentrated under reduced pressure to yield an orange foam which was purified twice by HPFC (silica gel, gradient elution with 0-25% CMA/CHCl3 where CMA is a solution comprised of 80% CHCl3, 18% MeOH, and 2% conc. NH4OH; followed by 0-30% CMA/CHCl3). The appropriate fractions were concentrated and triturated with acetonitrile. The solid was isolated by filtration and dried at 100° C. under vacuum to yield 1-[(4-amino-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]cyclohexanol (567 mg, 38%) as a white powder, mp 209.0-211.0° C. Anal. Calcd for C19H25N5O.0.2H2O C, 66.35; H, 7.47; N, 20.36. Found: C, 66.62; H, 7.34; N, 20.05.

reactant | 1-[(2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]cyclohexanol | 4.41 mmol, 1.43 g | C(CC)C=1N(C2=C(C=NC=3C=CC=NC23)N1)CC1(CCCCC1)O | C19H24N4O
reactant | m-chloroperbenzoic acid | 8.82 mmol, 2.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 4.85 mmol, 0.920 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-[(4-amino-2-propyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)methyl]cyclohexanol | 567 mg, 38% | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC2(CCCCC2)O)CCC | C19H25N5O
